US07176210B2
Preparation of 7-Allyloxy-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (13A-1)
To a suspension of 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (I-13A-1a; 30 mg, 0.08 mmol) in allyl alcohol (0.8 ml) was added NaH (60% dispersion in oil, 2 mg, 0.08 mmol). After stirring overnight, the reaction was concentrated and purified on a Chromatotron using methylene chloride as eluant to give product 13A-1 (12 mg, 38%) as a solid: +ESI MS (M+1) 396.4; 1H NMR (400 MHz, CD3OD) δ 8.51 (d, J=5.4 Hz, 1H), 7.53–7.40 (m, 6H), 7.24 (d, J=8.7 Hz, 2H), 6.68 (d, J=5.4 Hz, 1H), 6.20 (ddt, J=17.0, 10.4, 5.8 Hz, 1H), 5.64–5.58 (m, 1H), 5.45–5.41 (m, 1H), 5.10–5.08 (m, 2H).

reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | 0.08 mmol, 30 mg | ClC1=CC=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C18H10Cl3N3
reactant | NaH | 0.08 mmol, 2 mg | [H-].[Na+]
reactant | allyl alcohol | 0.8 ml | C(C=C)O | C3H6O
product | 7-Allyloxy-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | C(C=C)OC1=CC=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C21H15Cl2N3O
